US07157447B2
(R)-N-(4-Fluoro-2-(2-(hydroxymethyl)-5-oxopyrrolidin-1-yl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide.
To a stirred solution of intermediate 166, (R)-N-(2-(2-((tert-butyldimethylsilyloxy)methyl)-5-oxopyrrolidin 1-yl)-4-fluorobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide (0.10 g, 0.150 mmol) in tetrahydrofuran (5 mL) at 23° C. was added a solution of tetrabutylammonium fluoride (1M in tetrahydrofuran) (180 μL, 0.18 mmol). The reaction mixture was stirred at 23° C. for 3 h. NaHCO3 (1N in H2O, 30 mL) was then added and the organic material was extracted with ethyl acetate (2×25 mL). The combined organic extracts were dried (MgSO4), filtered and concentrated in vacuo. The residue was purified on a Biotage system using a silica gel column with ethyl acetate/Hexanes (1:1) to ethyl acetate 100% as eluent to afford the title compound (0.060 g, 73% yield): 1HNMR 400 MHz (MeOD) δ (ppm): 7.55 (1H, dd, (t), 6.6 Hz), 7.43 (2H, m), 7.13 (1H, dd, J=9.5, 2.4 Hz), 7.03 (1H, m), 5.26 (2H, s), 4.57 (1H, m), 4.32 (2H, m), 4.08 (2H, t, J=5.0 Hz), 7.03 (2H, t, J=5.0 Hz), 3.53 (2H, m), 2.69–2.56 (2H, m), 2.38 (1H, m), 2.22 (1H, m), 1.62 (6H, s). LCMS (M+H)+ m/z 551.

reactant | (R)-N-(2-(2-((tert-butyldimethylsilyloxy)methyl)-5-oxopyrrolidin 1-yl)-4-fluorobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | 0.150 mmol, 0.10 g | [Si](C)(C)(C(C)(C)C)OC[C@@H]1N(C(CC1)=O)C1=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=CC(=C1)F | C35H45FN4O6Si
reactant | tetrabutylammonium fluoride | 0.18 mmol, 1M, 180 μL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | NaHCO3 | 1N, 30 mL | C(=O)(O)[O-].[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (R)-N-(4-Fluoro-2-(2-(hydroxymethyl)-5-oxopyrrolidin-1-yl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | 0.060 g, 73% yield | FC1=CC(=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=C1)N1[C@H](CCC1=O)CO | C29H31FN4O6
